US05703240
6-(3-Bromo-phenyl)-piperidine-2,5-dione
Potassium t-butoxide (38.7 g) was added to a stirred solution of the trans-6-(3-bromo-phenyl)-5-nitro-piperidin-2-one (96.3 g) in dichloromethane (500 ml) and methanol (500 ml). The mixture was cooled to -70° and ozone was vigorously bubbled through the stirred solution for 7 h. The mixture was purged with nitrogen and pH6.5 phosphate buffer (500 ml) added. Sodium thiosulphate (120 g) and water (500 ml) were added and the mixture stirred as it warmed to room temperature overnight. The mixture was tested for peroxides then extracted with dichloromethane (600 ml×3). The combined organic extracts were washed with water (500 ml) then saturated brine (500 ml), dried (MgSO4) and evaporated in vacuo. Trituration with ether and hexane gave the title compound as a white solid (70.0 g). T.l.c. (Ethyl acetate) Rf 0.43.

reactant | Potassium t-butoxide | 38.7 g | CC(C)([O-])C.[K+]
reactant | trans-6-(3-bromo-phenyl)-5-nitro-piperidin-2-one | 96.3 g | BrC=1C=C(C=CC1)[C@H]1[C@@H](CCC(N1)=O)[N+](=O)[O-] | C11H11BrN2O3
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | methanol | 500 ml | CO | CH4O
product | 6-(3-Bromo-phenyl)-piperidine-2,5-dione | 70.0 g | BrC=1C=C(C=CC1)C1C(CCC(N1)=O)=O | C11H10BrNO2
